*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-15N
* Inductance = 0.02uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-15N_freq port1 port2 PARAMS: Cpar=0.345pF Ind=0.02uH
X1 port1 port2 Model1A PARAMS:
+ R1=270
+ R2=0.023
+ C= {Cpar}
+ K1=0.000005
+ K2=0.011
+ K3= {Ind}
+ K4=0.00036
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=182.272796
.ends 0603AF-15N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-33N
* Inductance = 0.043uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-33N_freq port1 port2 PARAMS: Cpar=0.132pF Ind=0.043uH
X1 port1 port2 Model1A PARAMS:
+ R1=370
+ R2=0.028
+ C= {Cpar}
+ K1=0.00004
+ K2=0.02
+ K3= {Ind}
+ K4=0.00071
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=457.555339
.ends 0603AF-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-39N
* Inductance = 0.049uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-39N_freq port1 port2 PARAMS: Cpar=0.12pF Ind=0.049uH
X1 port1 port2 Model1A PARAMS:
+ R1=220
+ R2=0.115
+ C= {Cpar}
+ K1=0.000001
+ K2=0.022
+ K3= {Ind}
+ K4=0.00071
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=631.802047
.ends 0603AF-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-47N
* Inductance = 0.062uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-47N_freq port1 port2 PARAMS: Cpar=0.089pF Ind=0.062uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.052
+ C= {Cpar}
+ K1=0.000001
+ K2=0.021
+ K3= {Ind}
+ K4=0.00107
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=671.058841
.ends 0603AF-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-68N
* Inductance = 0.085uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-68N_freq port1 port2 PARAMS: Cpar=0.14pF Ind=0.085uH
X1 port1 port2 Model1A PARAMS:
+ R1=130
+ R2=0.15
+ C= {Cpar}
+ K1=0.000001
+ K2=0.042
+ K3= {Ind}
+ K4=0.00127
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1158.93863
.ends 0603AF-68N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-72N
* Inductance = 0.091uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-72N_freq port1 port2 PARAMS: Cpar=0.133pF Ind=0.091uH
X1 port1 port2 Model1A PARAMS:
+ R1=180
+ R2=0.065
+ C= {Cpar}
+ K1=0.00008
+ K2=0.05
+ K3= {Ind}
+ K4=0.0014
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1187.72089
.ends 0603AF-72N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-111
* Inductance = 0.147uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-111_freq port1 port2 PARAMS: Cpar=0.101pF Ind=0.147uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.06
+ C= {Cpar}
+ K1=0.00002
+ K2=0.061
+ K3= {Ind}
+ K4=0.00268
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2051.64579
.ends 0603AF-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-121
* Inductance = 0.159uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-121_freq port1 port2 PARAMS: Cpar=0.116pF Ind=0.159uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.089
+ C= {Cpar}
+ K1=0.00001
+ K2=0.064
+ K3= {Ind}
+ K4=0.00286
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2000.33638
.ends 0603AF-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-151
* Inductance = 0.22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-151_freq port1 port2 PARAMS: Cpar=0.089pF Ind=0.22uH
X1 port1 port2 Model1A PARAMS:
+ R1=85
+ R2=0.093
+ C= {Cpar}
+ K1=0.00003
+ K2=0.077
+ K3= {Ind}
+ K4=0.00515
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2528.17401
.ends 0603AF-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-201
* Inductance = 0.29uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-201_freq port1 port2 PARAMS: Cpar=0.103pF Ind=0.29uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.115
+ C= {Cpar}
+ K1=0.00003
+ K2=0.11
+ K3= {Ind}
+ K4=0.00657
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3559.5731
.ends 0603AF-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-241
* Inductance = 0.356uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-241_freq port1 port2 PARAMS: Cpar=0.089pF Ind=0.356uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.12
+ C= {Cpar}
+ K1=0.00003
+ K2=0.128
+ K3= {Ind}
+ K4=0.00854
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4204.19827
.ends 0603AF-241_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-271
* Inductance = 0.388uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-271_freq port1 port2 PARAMS: Cpar=0.096pF Ind=0.388uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.22
+ C= {Cpar}
+ K1=0.00001
+ K2=0.142
+ K3= {Ind}
+ K4=0.00864
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4346.07717
.ends 0603AF-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-361
* Inductance = 0.482uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-361_freq port1 port2 PARAMS: Cpar=0.117pF Ind=0.482uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.21
+ C= {Cpar}
+ K1=0.00001
+ K2=0.17
+ K3= {Ind}
+ K4=0.00864
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4571.00031
.ends 0603AF-361_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-391
* Inductance = 0.564uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-391_freq port1 port2 PARAMS: Cpar=0.087pF Ind=0.564uH
X1 port1 port2 Model1A PARAMS:
+ R1=160
+ R2=0.3
+ C= {Cpar}
+ K1=0.0002
+ K2=0.255
+ K3= {Ind}
+ K4=0.013
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5821.5948
.ends 0603AF-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-421
* Inductance = 0.54uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-421_freq port1 port2 PARAMS: Cpar=0.106pF Ind=0.54uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.33
+ C= {Cpar}
+ K1=0.00001
+ K2=0.2
+ K3= {Ind}
+ K4=0.00864
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5325.07262
.ends 0603AF-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-471
* Inductance = 0.661uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-471_freq port1 port2 PARAMS: Cpar=0.096pF Ind=0.661uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.37
+ C= {Cpar}
+ K1=0.00004
+ K2=0.268
+ K3= {Ind}
+ K4=0.014
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7072.10945
.ends 0603AF-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-561
* Inductance = 0.778uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-561_freq port1 port2 PARAMS: Cpar=0.099pF Ind=0.778uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.49
+ C= {Cpar}
+ K1=0.00004
+ K2=0.34
+ K3= {Ind}
+ K4=0.016
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8864.09807
.ends 0603AF-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-681
* Inductance = 0.98uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-681_freq port1 port2 PARAMS: Cpar=0.082pF Ind=0.98uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.46
+ C= {Cpar}
+ K1=0.00009
+ K2=0.36
+ K3= {Ind}
+ K4=0.022
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9528.22882
.ends 0603AF-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-821
* Inductance = 1.215uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-821_freq port1 port2 PARAMS: Cpar=0.326pF Ind=1.215uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.58
+ C= {Cpar}
+ K1=0.00013
+ K2=0.42
+ K3= {Ind}
+ K4=0.029
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7289.50623
.ends 0603AF-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-102
* Inductance = 1.368uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-102_freq port1 port2 PARAMS: Cpar=0.085pF Ind=1.368uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.84
+ C= {Cpar}
+ K1=0.00006
+ K2=0.55
+ K3= {Ind}
+ K4=0.027
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13033.6375
.ends 0603AF-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-152
* Inductance = 1.87uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-152_freq port1 port2 PARAMS: Cpar=0.103pF Ind=1.87uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=1.3
+ C= {Cpar}
+ K1=0.00006
+ K2=0.8
+ K3= {Ind}
+ K4=0.027
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16159.1617
.ends 0603AF-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-222
* Inductance = 2.932uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-222_freq port1 port2 PARAMS: Cpar=1.67pF Ind=2.932uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=1.1
+ C= {Cpar}
+ K1=0.00015
+ K2=0.87
+ K3= {Ind}
+ K4=0.055
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7495.40519
.ends 0603AF-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-472
* Inductance = 6.093uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-472_freq port1 port2 PARAMS: Cpar=2.97pF Ind=6.093uH
X1 port1 port2 Model1A PARAMS:
+ R1=14
+ R2=1.5
+ C= {Cpar}
+ K1=0.00065
+ K2=1.7
+ K3= {Ind}
+ K4=0.113
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9895.93482
.ends 0603AF-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603AF-103
* Inductance = 14.442uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.08GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603AF-103_freq port1 port2 PARAMS: Cpar=1.76pF Ind=14.442uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=4.5
+ C= {Cpar}
+ K1=0.0015
+ K2=4.8
+ K3= {Ind}
+ K4=0.36
+ K5=0.1
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23878.9628
.ends 0603AF-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
